US06075099
Tetrahydrophthalic anhydride was obtained from Janssen Chemical. Hexahydrophthalic anhydride and hydrogenated bisphenol A were obtained from Milliken Chemical. 1,4-Cyclohexanedimethanol was obtained from either Aldrich Chemical Co. or from Eastman Chemical Co. 1,4-Cyclohexane dicarboxylic acid was provided by Eastman Chemical Co. Trimethylolpropane mentioned in the examples below was obtained from Aldrich Chemical Co. Tin catalyst (Fascat 4100) was obtained from Elf Atochem. Equilibrium peracetic acid (35%) was purchased from Aldrich Chemical Co.

reactant | Tetrahydrophthalic anhydride | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
reactant | Hexahydrophthalic anhydride | C1(C2C(C(=O)O1)CCCC2)=O | C8H10O3
product | 1,4-Cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
